US04115568
(a) 10-[4-(3-Decanoyloxypropyl)-1-piperazinyl]-4H-thieno[3,2-b][1,5]benzodiazepine hydrochloride
To a solution of 10-[4-(3-hydroxypropyl)-1-piperazinyl]-4H-thieno[3,2-b][1,5]benzodiazepine (1.71 g, 0.005 mol) in dry benzene (40 ml) was added decanoyl chloride (1.42 g, 0.0075 mol) in benzene (10 ml) dropwise with stirring and the solution heated at 75° C. until the reaction had gone to completion by TLC. The reaction mixture on washing gave the title compound.

reactant | 10-[4-(3-hydroxypropyl)-1-piperazinyl]-4H-thieno[3,2-b][1,5]benzodiazepine | 0.005 mol, 1.71 g | OCCCN1CCN(CC1)C=1C2=C(NC3=C(N1)C=CC=C3)C=CS2 | C18H22N4OS
reactant | decanoyl chloride | 0.0075 mol, 1.42 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 10-[4-(3-Decanoyloxypropyl)-1-piperazinyl]-4H-thieno[3,2-b][1,5]benzodiazepine hydrochloride | Cl.C(CCCCCCCCC)(=O)OCCCN1CCN(CC1)C=1C2=C(NC3=C(N1)C=CC=C3)C=CS2 | InChI=1S/C28H40N4O2S.ClH/c1-2-3-4-5-6-7-8-14-26(33)34-21-11-16-31-17-19-32(20-18-31)28-27-25(15-22-35-27)29-23-12-9-10-13-24(23)30-28;/h9-10,12-13,15,22,29H,2-8,11,14,16-21H2,1H3;1H
